US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-4-o-tolyl-2,8-diaza-spiro[4.5]dec-3-en-1-one
The title compound, MS: m/e=497.1 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-4-o-tolyl-2,8-diaza-spiro[4.5]dec-3-en-1-one and methyl iodide.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-4-o-tolyl-2,8-diaza-spiro[4.5]dec-3-en-1-one | FC(C=1C=C(C(=O)N2CCC3(C(=CNC3=O)C3=C(C=CC=C3)C)CC2)C=C(C1)C(F)(F)F)(F)F | C24H20F6N2O2
reactant | methyl iodide | CI | CH3I
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-4-o-tolyl-2,8-diaza-spiro[4.5]dec-3-en-1-one | FC(C=1C=C(C(=O)N2CCC3(C(=CN(C3=O)C)C3=C(C=CC=C3)C)CC2)C=C(C1)C(F)(F)F)(F)F | C25H22F6N2O2
